US06232430B1
1-(Benzyloxy)-4-(tert-butyldimethylsilyloxy)benzene was dissolved in ethyl acetate (400 ml) and 5 g of palladium on active carbon (5%) were added. After hydrogenation, the catalyst was removed by filtration and the solvents were removed under vacuo, to yield 42 g of 4-(tert-butyldimethylsilyloxy)-phenol (97%).

reactant | 1-(Benzyloxy)-4-(tert-butyldimethylsilyloxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C19H26O2Si
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 5 g | [Pd] | Pd
product | 4-(tert-butyldimethylsilyloxy)-phenol | 42 g, 97% | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)O | C12H20O2Si
